US06458772B1
b) Benzyl 5-(N-FMOC-L-valyloxy)-4-hydroxy-2-pentenoate
A mixture of benzyl 4,5-dihydroxy-2-pentenoate (4.4 g, 20 mmole), N-FMOC-L-valine (5.8 g, 17 mmole) and DMAP (0.21 g, 1.7 mmole) in 100 ml dichloromethane was cooled to about 10° C. A solution of DCC (4.2 g, 20 mmole) in 25 ml dichloromethane was added dropwise at the same temperature and the mixture was stirred overnight at room temperature. The mixture was cooled to 5° C. and the urethane was filtered. The filtrate was evaporated under reduced pressure and the product was isolated by silica gel column chromatography. Yield: 6.6 g=71%

reactant | benzyl 4,5-dihydroxy-2-pentenoate | 20 mmole, 4.4 g | OC(C=CC(=O)OCC1=CC=CC=C1)CO | C12H14O4
reactant | N-FMOC-L-valine | 17 mmole, 5.8 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](C(C)C)C(=O)O | C20H21NO4
reactant | DCC | 20 mmole, 4.2 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 1.7 mmole, 0.21 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | Benzyl 5-(N-FMOC-L-valyloxy)-4-hydroxy-2-pentenoate | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](C(C)C)C(=O)OCC(C=CC(=O)OCC1=CC=CC=C1)O | C32H33NO7
